US07781454B2
Step 6: N′-[3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-yl]-2-(1H-pyrazolo[3,4-b]pyridin-3-yl)acetohydrazide
To a solution of 3-(3-bromo-5-chlorophenoxy)-2-hydrazino-4-methylpyridine trifluoroacetate (112 mg, 0.253 mmol), 1H-pyrazolo[3,4-b]pyridin-3-ylacetic acid compound with ammonium chloride (1:1), (67.6 mg, 0.253 mmol), HOAT (6.89 mg, 0.051 mmol) and TEA (106 μL, 0.759 mmol) in DMF (1 mL) was added EDC (58.2 mg, 0.304 mmol) and the resulting mixture was stirred for 2 hours. The mixture was then filtered and purified on a Luna column (10μ, C18, 250×21.2 cm) eluting with 5-95% ACN/water with 0.1% TFA) to give the title compound.

reactant | 3-(3-bromo-5-chlorophenoxy)-2-hydrazino-4-methylpyridine trifluoroacetate | 0.253 mmol, 112 mg | FC(C(=O)O)(F)F.BrC=1C=C(OC=2C(=NC=CC2C)NN)C=C(C1)Cl
reactant | 1H-pyrazolo[3,4-b]pyridin-3-ylacetic acid compound with ammonium chloride | 0.253 mmol, 67.6 mg | [Cl-].[NH4+].N1N=C(C=2C1=NC=CC2)CC(=O)O
reactant | HOAT | 0.051 mmol, 6.89 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.304 mmol, 58.2 mg
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N′-[3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-yl]-2-(1H-pyrazolo[3,4-b]pyridin-3-yl)acetohydrazide | BrC=1C=C(OC=2C(=NC=CC2C)NNC(CC2=NNC3=NC=CC=C32)=O)C=C(C1)Cl | C20H16BrClN6O2
